US07192968B2
(±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[[5-[2-(methoxycarbonylamino)ethyl]-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-1,2-cyclohexane-diamine hydrochloride
(±)-cis-N1-[[5-(2-Aminoethyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-N2-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride (144 mg) was dissolved in pyridine (3 ml), triethylamine (138 μl) was added, and the mixture was stirred at room temperature for 5 minutes. A solution prepared by adding triphosgene (49 mg) to tetrahydrofuran (1 ml) containing methanol (20 μl) was added dropwise to this solution. The reaction mixture was stirred at room temperature for 1 hour, then concentrated under reduced pressure, and the residue was dissolved in a 9:1 mixed solvent of dichloromethane and methanol. Water was added to the solution to conduct liquid separation. The resultant organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (dichloromethane:methanol=100:3) to obtain a colorless foamy substance. This product was suspended in 1N hydrochloric acid (0.2 ml), and the suspension was concentrated under reduced pressure to obtain the title compound (60 mg) as a pale yellow foamy substance.

reactant | (±)-cis-N1-[[5-(2-Aminoethyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-N2-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | 144 mg | Cl.NCCN1CC2=C(CC1)N=C(S2)C(=O)N[C@H]2[C@H](CCCC2)NC(=O)C=2NC1=CC=C(C=C1C2)Cl
reactant | triethylamine | 138 μl | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 49 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 1N, 0.2 ml | Cl | ClH
solvent | methanol | 20 μl | CO | CH4O
product | (±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[[5-[2-(methoxycarbonylamino)ethyl]-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-1,2-cyclohexane-diamine hydrochloride | 60 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](CCCC1)NC(=O)C=1SC=2CN(CCC2N1)CCNC(=O)OC | InChI=1S/C26H31ClN6O4S.ClH/c1-37-26(36)28-9-11-33-10-8-20-22(14-33)38-25(32-20)24(35)31-19-5-3-2-4-18(19)30-23(34)21-13-15-12-16(27)6-7-17(15)29-21;/h6-7,12-13,18-19,29H,2-5,8-11,14H2,1H3,(H,28,36)(H,30,34)(H,31,35);1H/t18-,19+;/m1./s1
